data/mechanisms/records/IMS8-EQ8.7a.json
{"mechanism_id": "IMS8-EQ8.7a", "species": [{"species_id": "hexanal_radical_cation", "mapped_smiles": "[CH3:6][CH2:5][CH:4]([1H:8])[CH2:3][CH2:2][CH:1]=[O+:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_gamma_radical_cation", "mapped_smiles": "[CH3:6][CH2:5][CH:4][CH2:3][CH2:2][CH:1]=[O+:7][1H:8]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hexanal_radical_cation"]}, {"state_id": "state_products", "species_ids": ["distonic_gamma_radical_cation"]}], "steps": [{"step_id": "step_gamma_h_transfer", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 8]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 8]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_gamma_h_transfer", "support_type": "textbook_proposed", "locator": {"page": 144, "equation": "8.7", "section": "8 / Detailed Mechanisms of Ion Fragmentation (Random or hidden rearrangements; hydrogen exchange in an ion-molecule complex)"}, "confidence": 0.85, "curator_note": "Equation 8.7, first step (arrow labelled 'rH'). The n-hexanal molecular ion, n-ionized at the carbonyl oxygen (drawn O+.), transfers its gamma-H to oxygen through a 6-membered TS, giving the distonic radical cation: odd electron now on the gamma carbon, oxygen protonated (H-O+=CH). Book draws 2 arc(s): the large arc from the gamma C-H toward oxygen and the fishhook of the O+. odd electron are drawn; move <3> (the second electron of the breaking gamma C-H bond remaining on the gamma carbon as the new radical) is an implicit homolysis hook -- the resulting radical dot is drawn on the product but not as its own arc. Electron balance: the forming O-H bond receives 2 e- (moves 1,2); the breaking gamma C-H bond routes both its electrons (move 2 into O-H, move 3 onto the gamma carbon). This is the common entry step for both the high-energy (Eq 8.7 row 1) and low-energy (Eq 8.7 rows 2-3) channels."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
